US07151111B2
A solution of 82 mg (0.2 mmol) of (RS)-[1-(4-benzyloxy-phenyl)-5-oxo-pyrrolidin-3-yl]-carbamic acid tert-butyl ester in 2 ml of THF is hydrogenated in presence of 7 mg palladium on carbon (10%) at ambient pressure and RT during 18 h. For the working-up, the reaction mixture is filtered over Dicalit, then evaporated under reduced pressure. The crude (RS)-[1-(4-hydroxy-phenyl)-5-oxo-pyrrolidin-3-yl]-carbamic acid tert-butyl ester is obtained as a colorless oil, which is directly engaged in the next step without further purification and characterisation.

reactant | (RS)-[1-(4-benzyloxy-phenyl)-5-oxo-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 0.2 mmol, 82 mg | C(C)(C)(C)OC(NC1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C22H26N2O4
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 7 mg | [Pd] | Pd
product | (RS)-[1-(4-hydroxy-phenyl)-5-oxo-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CN(C(C1)=O)C1=CC=C(C=C1)O)=O | C15H20N2O4
